US07582760B2
To a solution of 2,3-dinitrotoluene (3.02 g, 16.6 mmol) in 25 mL of DMF was added dimethylformamide dimethylacetal (6.0 mL, 5.4 g, 45 mmol), and the solution was brought to 140° C. and stirred for 16 hours. The solvent was removed under reduced pressure to afford a dark red solid mass. This crude enamine was dissolved in 40 mL of MeOH and 4.0 mL of chlorotrimethylsilane (3.4 g, 31.7 mmol) was added. The solution was brought to reflux and stirred for 16 hours at reflux. The solvent was removed under reduced pressure and the crude material chromatographed directly to afford the 1-(2,2-dimethoxy-ethyl)-2,3-dinitro-benzene (1.85 g, 44%). 1H NMR (CDCl3) δ 2.96 (2H, d, J=5.2 Hz), 3.35 (6H, s), 4.49 (1H, t, J=5.2 Hz), 7.60 (apparent t, 1H, J=8.0 Hz), 7.76 (d, 1H, J=6.5 Hz), 8.05 (dd, 1H, J=1.3, 8.0).

reactant | 2,3-dinitrotoluene | 16.6 mmol, 3.02 g | [N+](=O)([O-])C1=C(C=CC=C1[N+](=O)[O-])C | C7H6N2O4
reactant | dimethylformamide dimethylacetal | 45 mmol, 6.0 mL, 5.4 g | COC(N(C)C)OC | C5H13NO2
reactant | chlorotrimethylsilane | 31.7 mmol, 4.0 mL, 3.4 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 40 mL | CO | CH4O
product | 1-(2,2-dimethoxy-ethyl)-2,3-dinitro-benzene | 1.85 g, 44% | COC(CC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])OC | C10H12N2O6
